US06642250B2
To a solution of 6-methyl-2-(3-nitrophenylamino)nicotinic acid methyl ester (13.84 g, 48.18 mmol) in THF (180 ml) was added potassium borohydride (3.12 g, 57.82 mmol) and lithium chloride (2.45 g, 58.82 mmol) and the mixture was heated under reflux. Potassium borohydride (0.52 g, 9.64 mmol) was added three times at one hour intervals and the mixture was further heated under reflux for 1 hour. Evaporation of the solvent under reduced pressure gave a residue which was admixed with water to form crystals. The crystals were collected by filtration, washed successively with water and isopropanol, and dried to give 3-hydroxymethyl-6-methyl-2-(3-nitrophenylamino)-pyridine (11.05 g, 88%).

reactant | 6-methyl-2-(3-nitrophenylamino)nicotinic acid methyl ester | 48.18 mmol, 13.84 g | COC(C1=C(N=C(C=C1)C)NC1=CC(=CC=C1)[N+](=O)[O-])=O | C14H13N3O4
reactant | potassium borohydride | 57.82 mmol, 3.12 g | [BH4-].[K+]
reactant | lithium chloride | 58.82 mmol, 2.45 g | [Cl-].[Li+]
reactant | Potassium borohydride | 9.64 mmol, 0.52 g | [BH4-].[K+]
reactant | water | O | H2O
solvent | THF | 180 ml | C1CCOC1 | C4H8O
product | 3-hydroxymethyl-6-methyl-2-(3-nitrophenylamino)-pyridine | 11.05 g, 88% | OCC=1C(=NC(=CC1)C)NC1=CC(=CC=C1)[N+](=O)[O-] | C13H13N3O3
